US07592373B2
4.31.c. [2-(2-chloro-4-nitrophenyl)ethyl]diethylamine
65 mL (65 mmol) of a 1M borane-THF solution is added dropwise to a solution of 3.7 g (13.67 mmol) of 2-(2-chloro-4-nitrophenyl)-N,N-diethylacetamide in 130 mL of THF at ambient temperature and stirred for 4 hours. Then the reaction mixture is evaporated down and the residue is combined with 15 mL of methanol and 15 mL of dilute hydrochloric acid. The mixture is then stirred for 15 minutes at 100° C., cooled, and diluted with water. Then the mixture is made alkaline with sodium carbonate solution and extracted twice with ethyl acetate. The combined organic phases are extracted twice with water and once with saturated saline solution and dried over sodium sulfate. The purification is carried out by column chromatography on Alox, neutral, act. II-III (eluant: petroleum ether/ethyl acetate (4:1)). Yield: 2.1 g (59.8% of theory); C12H17ClN2O2 (M=256.73); Rf value: 0.63 (Alox, petroleum ether/ethyl acetate (3:1)).

reactant | borane THF | 1M | B.C1CCOC1
reactant | 2-(2-chloro-4-nitrophenyl)-N,N-diethylacetamide | 13.67 mmol, 3.7 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)N(CC)CC | C12H15ClN2O3
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | [2-(2-chloro-4-nitrophenyl)ethyl]diethylamine | ClC1=C(C=CC(=C1)[N+](=O)[O-])CCN(CC)CC | C12H17ClN2O2
